US09145391B2
A flask was charged with potassium carbonate (0.028 g, 0.200 mmol), methyl trans-4-(hydroxymethyl)cyclohexanecarboxylate (0.034 g, 0.200 mmol), 6′-fluoro-4-methyl-N-[4-(trifluoromethyl)pyridin-2-yl]-2,3′-bipyridin-6-amine (0.032 g, 0.1 mmol), NMP (1 mL), and DIEA (0.035 mL, 0.20 mmol). The vial was sealed and heated to 130° C. for 72 hours. Aqueous NaOH (1M, 0.5 mL) was added, and the vial was heated in a microwave for 10 minutes at 110° C. The mixture was filtered through a CELITE cartridge, washing with NMP (3 mL). The residue, dissolved in 3 mL of NMP, was purified by mass triggered reverse phase HPLC (21-55% Acetonitrile/Water with a 0.1% Ammonium Hydroxide modifier on a Waters X-Bridge C18 19 mm×100 mm) to yield trans-4-{[(4-methyl-6-{[4-(trifluoromethyl)pyridin-2-yl]amino}-2,3′-bipyridin-6′-yl)oxy]methyl}cyclohexanecarboxylic acid. MS ESI calcd. for C25H26F3N4O3 [M+H]+ 487. found 487. rhSyk IC50=3 nM.

reactant | potassium carbonate | 0.200 mmol, 0.028 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl trans-4-(hydroxymethyl)cyclohexanecarboxylate | 0.200 mmol, 0.034 g | OC[C@@H]1CC[C@H](CC1)C(=O)OC | C9H16O3
reactant | 6′-fluoro-4-methyl-N-[4-(trifluoromethyl)pyridin-2-yl]-2,3′-bipyridin-6-amine | 0.1 mmol, 0.032 g | FC1=CC=C(C=N1)C1=NC(=CC(=C1)C)NC1=NC=CC(=C1)C(F)(F)F | C17H12F4N4
reactant | DIEA | 0.20 mmol, 0.035 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaOH | 1M, 0.5 mL | [OH-].[Na+]
solvent | NMP | 1 mL | CN1CCCC1=O | C5H9NO
product | trans-4-{[(4-methyl-6-{[4-(trifluoromethyl)pyridin-2-yl]amino}-2,3′-bipyridin-6′-yl)oxy]methyl}cyclohexanecarboxylic acid | CC1=CC(=NC(=C1)NC1=NC=CC(=C1)C(F)(F)F)C=1C=NC(=CC1)OC[C@@H]1CC[C@H](CC1)C(=O)O | C25H25F3N4O3
